US06964975B2
Methyl 3-oxobutanoate (29.4 g) was dissolved in methanol (30 ml), then a 40%-methylamine-methanol solution (32 ml) was added dropwise at room temperature, and the mixture was stirred for 1 hour. After the completion of the reaction, the reaction solution as such was concentrated, and then dried using a vacuum pump to obtain methyl 3-(methylamino)-2-butenoate (31.8 g, yield 97%). Subsequently, methyl 3-(methylamino)-2-butenoate (1.0 g) was dissolved in tetrahydrofuran (15 ml) and pyridine (0.63 ml) was added dropwise at room temperature. Under ice cooling, m-toluyl chloride (1.22 ml) was added dropwise and the mixture was stirred at room temperature for 1 hour. After the completion of the reaction, distilled water was added, and the reaction product was extracted by liquid separation using ether and then washed with a saturated saline solution. The product was dried over sodium sulfate to concentrate and the residue was dried using a vacuum pump. Subsequently, the residue was dissolved in an acetic acid (15 ml). Then, hydroxylamine hydrochloride (0.54 g) was added at room temperature, and the product was heated under reflux for 30 minutes. After the completion of the reaction, saturated aqueous solution of sodium hydrogencarbonate was added to neutralize the reaction system, and the product was extracted by liquid separation using ether. The resultant organic layer was washed with saturated aqueous solution of sodium chloride and dried over sodium sulfate to concentrate. The residue was purified by silica gel column chromatography using a hexane-acetone elution system to obtain methyl 3-methyl-5-(3-methylphenyl)-4-isoxazole carboxylate (183 mg, yield 10.2%).

reactant | methyl 3-(methylamino)-2-butenoate | 1.0 g | CNC(=CC(=O)OC)C | C6H11NO2
reactant | pyridine | 0.63 ml | N1=CC=CC=C1 | C5H5N
reactant | m-toluyl chloride | 1.22 ml | C1(=CC(=CC=C1)Cl)C | C7H7Cl
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | methyl 3-methyl-5-(3-methylphenyl)-4-isoxazole carboxylate | 183 mg, yield 10.2% | CC1=NOC(=C1C(=O)OC)C1=CC(=CC=C1)C | C13H13NO3
